US09227930B2
To ice cold 2M benzylmagnesium chloride in tetrahydrofuran (6.14 ml, 12.28 mmol) was added dropwise a solution of ethyl 6-methoxy-1-oxo-2,3-dihydro-1H-inden-2-ylcarbamate (1.02 g. 4.09 mmol) in tetrahydrofuran (30 ml) and stirred over night, while the reaction mixture was allowed to warm up to room temperature. The reaction mixture was quenched with sat. ammonium chloride and the organic layer was evaporated. The residue was extracted twice with dichloromethane and the combined organic layers were washed subsequently with sodium bicarbonate and brine, dried, filtered and evaporated to obtain a dark gooey oil, that was purified by flash silica gel chromatography on 12 g SiO2— cartridge using 30% ethyl acetate in cyclohexane to afford the desired ethyl 1-benzyl-1-hydroxy-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate as a brown grease. m=1.07 g (77%)

reactant | ethyl 6-methoxy-1-oxo-2,3-dihydro-1H-inden-2-ylcarbamate | 4.09 mmol, 1.02 g | COC1=CC=C2CC(C(C2=C1)=O)NC(OCC)=O | C13H15NO4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.28 mmol, 6.14 ml | O1CCCC1 | C4H8O
product | ethyl 1-benzyl-1-hydroxy-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate | C(C1=CC=CC=C1)C1(C(CC2=CC=C(C=C12)OC)NC(OCC)=O)O | C20H23NO4
